US05786486
In 2 mL of ethanol, were dissolved 115 mg (0.35 mmol) of ethyl 3,3'-(1,4-naphthalenediyl)diacrylate and 196 mg (3.49 mmol) of potassium hydroxide. The solution was refluxed for 2 hours. Thereto, 1N hydrochloric acid was added to bring the solution to pH=1. The deposited crystal was washed successively with water, and ethanol, and dried to obtain 90.2 mg (95%) of 3,3'-(1,4-naphthalenediyl)-diacrylic acid in a yellow crystal state.

reactant | ethyl 3,3'-(1,4-naphthalenediyl)diacrylate | 0.35 mmol, 115 mg | C1(=CC=C(C2=CC=CC=C12)C=CC(=O)[O-])C=CC(=O)OCC
reactant | potassium hydroxide | 3.49 mmol, 196 mg | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3,3'-(1,4-naphthalenediyl)-diacrylic acid | 90.2 mg, 95% | C1(=CC=C(C2=CC=CC=C12)C=CC(=O)O)C=CC(=O)O | C16H12O4
